Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
CC: nausea, weight loss, RUQ pain
 
Major Surgical or Invasive Procedure:
Liver biopsy ___
 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history noted below who p/w RUQ and RLQ abd pain, fevers, night
sweats, weight loss x ___, nausea. Started having dark urine 1
wk ago. Jaundice started today. Abd pain is sharp RUQ, ?worsened
after eating but may be present at other times. No new meds.
Traveled in ___ to ___. Denies eating fresh shellfish.
Last sexually active in ___. Takes PREP and is regularly
screened for HIV, HCV as well as other STI. Reports recently
negative for HAV, HBV, HCV, this past ___. Rare EtOH, none in
>2 months. No IVD Hx. Sexually active, remote Hx STI. No NSAID.
Having regular BM and flatulence. No abdominal surgery Hx. 

Presented to urgent care, had CT showing possible partial SBO.
Labs pertinent for elevated LFTs and lipase. Pt has no h/o liver
problems. No abdominal surgeries. He does take pre-exposure ppx
truvada daily x ___. Also regularly has LFTs tested and they 
have
always been normal. 

VS: stable, 129/67
Labs cbc, BMP unremarkable
alt 383, ast 170, ap 1726, tbili 2.6, lipase 180
UA w few bact, moderate blood
- hepatitis panel pending
US ab with splenomegaly and decompressed GB

Surgery saw pt in ED and not concerned for SBO citing lack of
transition point; no intervention planned

On floor arrival, pain is less but still present on palpation. 
No
nausea. Has eaten a sandwich in the past several hours without
increased pain. Denies f/c, n/v, CP, SOB. Notes the darkened
urine, with a picture on cell phone.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Insomnia, asthma, ADD, STD
Takes testosterone injections 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: icteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended. Mild TTP in RUQ, epigastrum. 
liver about 4 cm below the costal margin. 
GU: small possible 2 chancres lesions on the upper glans penis,
about 2 mm in size. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___: ULTRASOUND-GUIDED NON TARGETED LIVER BIOPSY 
  
INDICATION:  ___ year old man with transaminitis of unclear 
etiology// Liver biopsy to determine etiology of transaminitis 
  
COMPARISON:  CT ABDOMEN AND PELVIS ___, ABDOMINAL 
ULTRASOUND ___. 
  
PROCEDURE: Ultrasound-guided non-targeted liver biopsy. 
  
OPERATORS: Dr. ___, radiology resident and Dr. ___, 
___ 
radiologist. Dr. ___ supervised the trainee during 
the key 
components of the procedure and reviewed and agrees with the 
trainee's 
findings. 
  
FINDINGS:  
  
Limited preprocedure grayscale and Doppler ultrasound imaging of 
the right 
hepatic lobe was performed and a suitable approach for non 
targeted liver 
biopsy was determined.  No other abnormalities were identified 
on the limited imaging. 
  
TECHNIQUE:  The risks, benefits, and alternatives of the 
procedure were 
explained to the patient.  After a detailed discussion, informed 
written 
consent was obtained.  A pre-procedure timeout using three 
patient identifiers was performed per ___ protocol. 
  
Based on the preprocedure imaging, an appropriate skin entry 
site for the 
biopsy was chosen.  The site was marked.  The skin was then 
prepped and draped in the usual sterile fashion.  The 
superficial soft tissues to the liver capsule were anesthetized 
with 10 mL 1% lidocaine.  Under real-time ultrasound guidance, 
an 18 gauge core biopsy needle was then advanced into the right 
lobe of the liver and a single core biopsy sample was obtained 
and placed in formalin.  The skin was then cleaned and a dry 
sterile dressing was applied. 
There was no immediate complications. 
  
SEDATION:  Moderate sedation was provided by administering 
divided doses of 2 mg Versed and 100 mcg fentanyl throughout the 
total intra-service time of 16 minutes during which patient's 
hemodynamic parameters were continuously monitored by an 
independent trained radiology nurse. 
  
IMPRESSION:    
Uncomplicated non-targeted liver biopsy. 

___ 11:48AM   WBC-8.1 RBC-4.53* HGB-13.7 HCT-39.7* MCV-88 
MCH-30.2 MCHC-34.5 RDW-15.3 RDWSD-49.1*
___ 11:48AM   NEUTS-69.4 LYMPHS-14.3* MONOS-13.4* EOS-2.1 
BASOS-0.6 IM ___ AbsNeut-5.60 AbsLymp-1.15* AbsMono-1.08* 
AbsEos-0.17 AbsBaso-0.05
___ 11:48AM   PLT COUNT-237
___ 11:48AM   GLUCOSE-93 UREA N-16 CREAT-0.6 SODIUM-135 
POTASSIUM-5.1 CHLORIDE-100 TOTAL CO2-22 ANION GAP-13
___ 11:48AM   estGFR-Using this
___ 11:48AM   ALT(SGPT)-383* AST(SGOT)-170* ALK PHOS-1726* 
TOT BILI-2.6* DIR BILI-1.2* INDIR BIL-1.4
___ 11:48AM   LIPASE-180*
___ 08:19PM   HBsAg-NEG HBs Ab-POS HBc Ab-NEG HAV Ab-POS*
___ 08:19PM   HCV Ab-NEG
___ 08:19PM   HCV VL-NOT DETECT
___ 11:15AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:15AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-1 PH-5.5 LEUK-NEG
___ 11:15AM URINE  ___ BACTERIA-FEW* YEAST-NONE 
___ 06:30AM BLOOD WBC-7.4 RBC-4.28* Hgb-12.8* Hct-37.6* 
MCV-88 MCH-29.9 MCHC-34.0 RDW-15.2 RDWSD-48.9* Plt ___
___ 06:35AM BLOOD WBC-8.7 RBC-4.51* Hgb-13.7 Hct-40.3 
MCV-89 MCH-30.4 MCHC-34.0 RDW-15.3 RDWSD-49.3* Plt ___
___ 06:30AM BLOOD WBC-8.3 RBC-4.33* Hgb-12.9* Hct-38.1* 
MCV-88 MCH-29.8 MCHC-33.9 RDW-14.9 RDWSD-48.1* Plt ___
___ 07:20AM BLOOD WBC-7.3 RBC-4.58* Hgb-13.7 Hct-40.3 
MCV-88 MCH-29.9 MCHC-34.0 RDW-15.1 RDWSD-48.4* Plt ___
___ 06:25AM BLOOD WBC-7.9 RBC-4.67 Hgb-13.9 Hct-42.1 MCV-90 
MCH-29.8 MCHC-33.0 RDW-15.3 RDWSD-50.5* Plt ___
___ 06:35AM BLOOD Neuts-70.4 Lymphs-14.7* Monos-10.9 
Eos-3.1 Baso-0.6 Im ___ AbsNeut-6.11* AbsLymp-1.28 
AbsMono-0.95* AbsEos-0.27 AbsBaso-0.05
___ 06:30AM BLOOD Neuts-70.2 Lymphs-13.6* Monos-12.3 
Eos-2.9 Baso-0.6 Im ___ AbsNeut-5.80 AbsLymp-1.12* 
AbsMono-1.02* AbsEos-0.24 AbsBaso-0.05
___ 03:10PM BLOOD ___ PTT-32.2 ___
___ 06:35AM BLOOD ___ PTT-33.5 ___
___ 06:30AM BLOOD ___
___ 06:25AM BLOOD ___ PTT-32.1 ___
___ 07:20AM BLOOD ___
___ 06:25AM BLOOD ___
___ 06:30AM BLOOD Glucose-143* UreaN-14 Creat-0.6 Na-138 
K-4.3 Cl-102 HCO3-24 AnGap-12
___ 06:35AM BLOOD Glucose-137* UreaN-13 Creat-0.7 Na-141 
K-4.8 Cl-102 HCO3-26 AnGap-13
___ 06:30AM BLOOD Glucose-92 UreaN-17 Na-140 K-4.5 HCO3-26 
AnGap-12
___ 07:20AM BLOOD UreaN-16 Creat-0.7 Na-138 K-4.7 Cl-100 
HCO3-23 AnGap-15
___ 06:25AM BLOOD Glucose-93 UreaN-17 Creat-0.7 Na-142 
K-5.1 Cl-104 HCO3-26 AnGap-12
___ 06:30AM BLOOD ALT-306* AST-131* LD(___)-209 
AlkPhos-1546* TotBili-2.3*
___ 06:35AM BLOOD ALT-311* AST-155* AlkPhos-1702* 
TotBili-2.2*
___ 06:30AM BLOOD ALT-269* AST-130* LD(___)-207 
AlkPhos-1651* Amylase-207* TotBili-1.8*
___ 07:20AM BLOOD ALT-255* AST-113* LD(___)-241 
AlkPhos-1651* TotBili-1.7*
___ 06:25AM BLOOD ALT-221* AST-95* AlkPhos-1511* 
TotBili-1.6*
___ 06:30AM BLOOD calTIBC-224* Ferritn-301 TRF-172*
___ 06:30AM BLOOD Albumin-3.1* Calcium-8.7 Phos-3.3 Mg-2.0
___ 06:35AM BLOOD Albumin-3.3* Calcium-9.5
___ 07:20AM BLOOD Albumin-3.5
___ 08:19PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS*
___ 07:20AM BLOOD IgM HAV-PND
___ 06:30AM BLOOD AMA-NEGATIVE Smooth-POSITIVE A
___ 06:34AM BLOOD AMA-NEGATIVE
___ 06:30AM BLOOD ___
___ 06:34AM BLOOD IgG-1206
___ 08:19PM BLOOD HCV Ab-NEG
___ 08:19PM BLOOD HCV VL-NOT DETECT
 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical history 
noted below who p/w RUQ and RLQ abd pain, fevers, night sweats, 
weight loss x ___, nausea and was found to have transaminitis.

#Acute Hepatitis: Primarily cholestatic. Differential included 
infectious/viral vs drug induced, autoimmune, sarcoidosis, 
lymphoma. Azithromycin was a prime candidate for DILI. ___ 
1:20. Enzymes appeared to be leveling off, but still elevated so 
underwent liver biopsy on ___.

#Syphilis: Contacted PCP and he mentioned positive RPR on ___, 
found with possible 2 small chancres. Continue PrEP. Started 
doxycycline given penicillin allergy. 

Transitional: 
[ ] liver biopsy performed on ___, results pending at time of 
discharge. Will need repeat Liver Function Panel in 1 week and 
outpatient GI follow up depending on liver biopsy results. 
[ ] discharged on doxycycline 100mg BID, needs 11 more days to 
complete a 2-week course total
 
Medications on Admission:
ALBUTEROL SULFATE [VENTOLIN HFA] - Dosage uncertain - 
(Prescribed by Other Provider)Entered by MA/Other Staff
EMTRICITABINE-TENOFOVIR (TDF) [TRUVADA] - Dosage uncertain - 
(Prescribed by Other Provider)Entered by MA/Other Staff
FLUTICASONE [FLOVENT DISKUS] - Dosage uncertain -  (Prescribed 
by
Other Provider)Entered by MA/Other Staff
LORAZEPAM [ATIVAN] - Dosage uncertain -  (Prescribed by Other
Provider)Entered by MA/Other Staff
METHYLPHENIDATE HCL [CONCERTA] - Dosage uncertain -  (Prescribed
by Other Provider)Entered by MA/Other Staff
TEMAZEPAM - Dosage uncertain -  (Prescribed by Other
Provider)Entered by MA/Other Staff
TIZANIDINE - tizanidine 2 mg capsule. 1 capsule(s) by mouth at
bedtime as needed for muscle spasm Take ___ tabs every night as
needed for muscle spasm
TRETINOIN - tretinoin 0.025 % topical cream. Use on affected
areas nightly at bedtime -  (Not Taking as Prescribed)Entered by
MA/Other Staff
- testosterone shots 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H Duration: 14 Days 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*22 Capsule Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing, dyspnea  
3.  Docusate Sodium 100 mg PO BID  
4.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Loratadine 10 mg PO DAILY  
7.  MethylPHENIDATE (Ritalin) 15 mg PO TID  
8.  Montelukast 10 mg PO DAILY  
9.  Temazepam 30 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Hepatitis
Cholestatic Jaundice
Syphilis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
 It was a pleasure taking part in your care here at ___! 

 Why was I admitted to the hospital? 
 - You presented with jaundice and elevated liver enzymes.

 What was done for me while I was in the hospital? 
 - Because your liver enzymes remained elevated, we performed a 
liver biopsy in addition to several blood tests some of which 
are still pending at the time of discharge. Your liver biopsy 
results are also pending at the time of discharge. 
 - Based on your recent outpatient results and your recent 
chancre, we started you on Doxycycline for treatment of 
syphilis. Ideally, this would be treated with penicillin but 
given your allergy to penicillin, we have started you on 
Doxycycline which is an acceptable alternative. 

 What should I do when I leave the hospital? 
 - You should take it easy for the next few days and make sure 
you follo0w up with your PCP as planned. You should ask your PCP 
to repeat your liver enzyme tests in a week. 

Sincerely, 
Your ___ Care Team 
It was a pleasure to participate in your care.
 
Followup Instructions:
___